US03962259
Treatment of 1-cyclopropylmethyl-4-hydroxy-4-(α-hydroxy-2-tolyl)piperidine with hydrochloric acid by the method described in Example 16d provides 1'-cyclopropylmethyl-1,3-dihydrospiro[isobenzofuran-1,4'-piperidine] as an oil (hydrochloride salt, m.p. 222°-224°).

reactant | 1-cyclopropylmethyl-4-hydroxy-4-(α-hydroxy-2-tolyl)piperidine | C1(CC1)CN1CCC(CC1)(C1=C(C=CC=C1)CO)O | C16H23NO2
reactant | hydrochloric acid | Cl | ClH
product | 1'-cyclopropylmethyl-1,3-dihydrospiro[isobenzofuran-1,4'-piperidine] | C1(CC1)CN1CCC2(CC1)OCC1=CC=CC=C12 | C16H21NO
